US08748469B2
Tert-Butyl 4-chlorobenzyl(2-iodophenyl)carbamate
N-(4-chlorobenzyl)-2-iodoaniline (386 mg, 1.12 mmol) was dissolved in dichloromethane (6 mL) and triethylamine (0.23 mL, 1.68 mmol) was added. The mixture was stirred for 5 min and di-tert-butyl dicarbonate (257 mg, 1.18 mmol) was added. The reaction was stirred overnight and diluted with dichloromethane (30 mL). The dichloromethane solution was washed with saturated ammonium chloride (10 mL), water (10 mL) and dried over Na2SO4. The solvent was removed under reduced pressure and the crude product was used for Negishi coupling without further purification.

reactant | N-(4-chlorobenzyl)-2-iodoaniline | 1.12 mmol, 386 mg | ClC1=CC=C(CNC2=C(C=CC=C2)I)C=C1 | C13H11ClIN
reactant | triethylamine | 1.68 mmol, 0.23 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 1.18 mmol, 257 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | Tert-Butyl 4-chlorobenzyl(2-iodophenyl)carbamate | ClC1=CC=C(CN(C(OC(C)(C)C)=O)C2=C(C=CC=C2)I)C=C1 | C18H19ClINO2
